US07304081B2
Step 2. methyl 3-pyrrolidin-3-ylbenzoate
To a solution of methyl 3-[1-(phenoxyacetyl)-2,3-dihydro-1H-pyrrol-3-yl]benzoate (0.5 g, 0.001 mol) in methanol (15 mL, 0.37 mol) was added 10% Pd/C (80 mg), and the resulting suspension was stirred under 1 atm of H2 (balloon) for 5 h. The mixture was filtered and the filtrate was concentrated to afford the desired product.

reactant | methyl 3-[1-(phenoxyacetyl)-2,3-dihydro-1H-pyrrol-3-yl]benzoate | 0.001 mol, 0.5 g | O(C1=CC=CC=C1)CC(=O)N1CC(C=C1)C=1C=C(C(=O)OC)C=CC1 | C20H19NO4
reactant | methanol | 0.37 mol, 15 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | methyl 3-pyrrolidin-3-ylbenzoate | N1CC(CC1)C=1C=C(C(=O)OC)C=CC1 | C12H15NO2
